US08133886B2
4-[5-(4-Fluoro-3-trifluoromethyl-phenylcarbamoyl)-naphthalen-2-yloxy]-pyrimidine-2-carboxylic acid ethyl ester
To a solution of 242 mg (0.717 mMol) 4-(5-carboxy-naphthalen-2-yloxy)-pyrimidine-2-carboxylic acid ethyl ester in 10.7 ml DMF, 1.5 ml (10.8 mMol) Et3N, 38 mg (0.31 mMol) DMAP, 111 μl (0.86 mMol) 5-amino-2-fluorobenzotrifluoride and 880 μl propylphosphonic anhydride (50% in DMF; 1.5 mMol) are added. After 30 min stirring, the reaction mixture is diluted with water and EtOAc, the aq. phase separated off and extracted twice with EtOAc. The organic layers are washed with water and brine, dried (Na2SO4) and concentrated. Chromatography (Combi Flash; CH2Cl2→CH2Cl2/acetone 19:1) gives the title compound: MS: [M+1]+=500; TLC (CH2Cl2/acetone 9:1): Rf=0.54.

reactant | 4-(5-carboxy-naphthalen-2-yloxy)-pyrimidine-2-carboxylic acid ethyl ester | 0.717 mMol, 242 mg | C(C)OC(=O)C1=NC=CC(=N1)OC1=CC2=CC=CC(=C2C=C1)C(=O)O | C18H14N2O5
reactant | Et3N | 10.8 mMol, 1.5 ml | CCN(CC)CC | C6H15N
reactant | 5-amino-2-fluorobenzotrifluoride | 0.86 mMol, 111 μl | NC=1C=CC(=C(C1)C(F)(F)F)F | C7H5F4N
reactant | propylphosphonic anhydride | 1.5 mMol, 880 μl | CCCP(=O)=O | C3H7O2P
solvent | DMF | 10.7 ml | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.31 mMol, 38 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-[5-(4-Fluoro-3-trifluoromethyl-phenylcarbamoyl)-naphthalen-2-yloxy]-pyrimidine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC=CC(=N1)OC1=CC2=CC=CC(=C2C=C1)C(NC1=CC(=C(C=C1)F)C(F)(F)F)=O | C25H17F4N3O4
